US08247429B2
methyl 5-bromo-6-fluoro-1H-indazole-4-carboxylate
To a solution of methyl 3-amino-6-bromo-5-fluoro-2-methylbenzoate (1.33 g, 5.09 mmol) in acetic acid (25 mL) heated to 50° C. was added a solution of sodium nitrite (369 mg, 5.34 mmol) in water (1 mL), and the mixture was stirred for 1.5 hr and concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=5/95→40/60) to give the title compound (700 mg, yield 52%).

reactant | methyl 3-amino-6-bromo-5-fluoro-2-methylbenzoate | 5.09 mmol, 1.33 g | NC=1C(=C(C(=O)OC)C(=C(C1)F)Br)C | C9H9BrFNO2
reactant | sodium nitrite | 5.34 mmol, 369 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | methyl 5-bromo-6-fluoro-1H-indazole-4-carboxylate | 700 mg, yield 52% | BrC1=C(C=2C=NNC2C=C1F)C(=O)OC | C9H6BrFN2O2
